US07291632B2
Cyclopropanecarboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride
Prepare according to procedure in Example 69 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34, 175 mg, 0.794 mmol), cyclopropanecarbonyl chloride (108 μL, 1.19 mmol), and pyridine (15 mL) to yield 190 mg (74%) of the title compound: mass spectrum (ion spray): m/z 289.1 (M+1); Analysis Calc'd for C16H25N4OCl.0.1H2O: C, 58.83; H, 7.78; N, 17.15. Found: C, 58.69; H, 7.71; N, 17.31. mp 258–60° C.

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.794 mmol, 175 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | cyclopropanecarbonyl chloride | 1.19 mmol, 108 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | Cyclopropanecarboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride | 190 mg, 74% | Cl.CN(C1=CC=CC(=N1)NC(=O)C1CC1)C1CCN(CC1)C | InChI=1S/C16H24N4O.ClH/c1-19-10-8-13(9-11-19)20(2)15-5-3-4-14(17-15)18-16(21)12-6-7-12;/h3-5,12-13H,6-11H2,1-2H3,(H,17,18,21);1H
